US04316037
Sodium 1-(p-Methoxybenzyl)-1H-tetrazole-5-carboxylate
Following the procedure of Example 2, 1-(p-methoxybenzyl)-5-carboethoxy tetrazole is dissolved in warm absolute ethanol. A slight stoichiometric excess of NaOH in water is added to precipitate the sodium salt.

reactant | 1-(p-methoxybenzyl)-5-carboethoxy tetrazole | COC1=CC=C(CN2N=NN=C2C(=O)OCC)C=C1 | C12H14N4O3
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | Sodium 1-(p-Methoxybenzyl)-1H-tetrazole-5-carboxylate | COC1=CC=C(CN2N=NN=C2C(=O)[O-])C=C1.[Na+] | InChI=1S/C10H10N4O3.Na/c1-17-8-4-2-7(3-5-8)6-14-9(10(15)16)11-12-13-14;/h2-5H,6H2,1H3,(H,15,16);/q;+1/p-1
